US05068334
1,3-Dimethy-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example 29 from 3-methyl- 3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione and methyl iodide in boiling acetone.

reactant | 3-methyl- 3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | CC1C(NC=2CCCC(C2C1)=O)=O | C10H13NO2
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 1,3-Dimethy-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | CN1C(C(CC=2C(CCCC12)=O)C)=O | C11H15NO2
